US08110681B2
A mixture of tert-butyl 2-(4-amino-3-bromophenyl)propanoate (6.50 g, 21.7 mmol), methyl 2-(bromomethyl)benzoate (4.97 g, 21.7 mmol), diisopropylethylamine (2.80 g, 21.7 mmol), and ethanol (180 mL) was heated at 120° C. in a sealed vial overnight. After cooling to room temperature, the mixture was concentrated and the residue purified by flash chromatography (92:8 hexanes/ethyl acetate) to afford methyl 2-((2-bromo-4-(1-tert-butoxy-1-oxopropan-2-yl)phenylamino)methyl)benzoate (4.72 g, 48%) as thick oil: 1H NMR (500 MHz, CDCl3) δ 7.98 (m, 1H), 7.47 (m, 2H), 7.37-7.31 (m, 2H), 7.01 (dd, J=8.4, 2.0 Hz, 1H), 6.50 (d, J=8.4 Hz, 1H), 5.03 (br t, J=6.1 Hz, 1H), 4.75 (d, J=6.2 Hz, 2H), 3.92 (s, 3H), 3.43 (q, J=7.2 Hz, 1H), 1.38 (s, 9H), 1.37 (d, J=7.2 Hz, 3H); ESI MS m/z 450 [(M+2)+H]+.

reactant | tert-butyl 2-(4-amino-3-bromophenyl)propanoate | 21.7 mmol, 6.50 g | NC1=C(C=C(C=C1)C(C(=O)OC(C)(C)C)C)Br | C13H18BrNO2
reactant | methyl 2-(bromomethyl)benzoate | 21.7 mmol, 4.97 g | BrCC1=C(C(=O)OC)C=CC=C1 | C9H9BrO2
reactant | diisopropylethylamine | 21.7 mmol, 2.80 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethanol | 180 mL | C(C)O | C2H6O
product | methyl 2-((2-bromo-4-(1-tert-butoxy-1-oxopropan-2-yl)phenylamino)methyl)benzoate | 4.72 g, 48% | BrC1=C(C=CC(=C1)C(C(=O)OC(C)(C)C)C)NCC1=C(C(=O)OC)C=CC=C1 | C22H26BrNO4
